US04544729
16.2 g of ethylmethyldiethoxysilane, 2.43 g of magnesium and 10 ml of tetrahydrofuran were charged into a 500-ml, three-necked flask provided with a stirrer, a cooler and a dropping funnel and stirred under a nitrogen gas stream, while 100 ml of a tetrahydrofuran solution containing 11,8 g of p-dibromobenzene was dropwise added thereto from the dropping funnel over about 3 hours. After the dropwise addition, the mixture was further stirred and refluxed for about 5 hours. After the refluxing, the resulting polymer was separated by filtration, and then the solvent was removed therefrom by distillation. The residues were then subjected to distillation under reduced pressure, whereby 10.5 g of p-bis(ethylmethylethoxysilyl)benzene was obtained (yield: 68%, boiling point: 122°-125° C./3 mmHg).

reactant | ethylmethyldiethoxysilane | 16.2 g | C(C)[Si](OCC)(OCC)C | C7H18O2Si
reactant | magnesium | 2.43 g | [Mg] | Mg
reactant | p-dibromobenzene | 11,8 g | BrC1=CC=C(C=C1)Br | C6H4Br2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | p-bis(ethylmethylethoxysilyl)benzene | 10.5 g, yield: 68% | C(C)[Si](C1=CC=C(C=C1)[Si](OCC)(C)CC)(OCC)C | C16H30O2Si2
